US08980911B2
To a solution of N-(4-methyl-5-nitropyridin-2-yl)acetamide (1 g, 5 mmol, Step a) in dry dimethylformamide (10 mL), dimethylformamide dimethyl acetal (1.5 mL, 11 mmol) was added and the resulting reaction mixture was heated at 90° C. for 3 hours. The reaction mixture was cooled to room temperature, toluene was added and evaporated under vacuum followed by triturating with diethyl ether and filtration to afford N-{4-[(Z)-2-(dimethylamino)ethenyl]-5-nitropyridin-2-yl}acetamide (0.8 g, 63%).

reactant | N-(4-methyl-5-nitropyridin-2-yl)acetamide | CC1=CC(=NC=C1[N+](=O)[O-])NC(C)=O | C8H9N3O3
reactant | dimethylformamide dimethyl acetal | 11 mmol, 1.5 mL | COC(N(C)C)OC | C5H13NO2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | N-{4-[(Z)-2-(dimethylamino)ethenyl]-5-nitropyridin-2-yl}acetamide | 0.8 g, 63% | CN(\C=C/C1=CC(=NC=C1[N+](=O)[O-])NC(C)=O)C | C11H14N4O3
